US09216173B2
To a suspension of 9H-fluoren-9-ylmethyl [2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-2-oxoethyl]carbamate (120 mg, 0.23 mmol) in DMF (1.8 mL) was added piperidine (394 mg, 4.63 mmol). After 1 hour, the reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (0-70% ethyl acetate/hexanes, linear gradient, followed by 0-12% methanol/dichloromethane, linear gradient) to afford N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}glycinamide. MS ESI calc'd for C15H17N6O [M+H]+ 297. found 297. 1H NMR (500 MHz, DMSO-d6) δ 9.09 (s, 1H), 8.85 (d, J=2.1 Hz, 1H), 8.43 (d, J=2.1 Hz, 1H), 6.64 (s, 1H), 6.61 (s, 1H), 3.31 (s, 2H), 2.29 (s, 3H), 2.21 (s, 3H).

reactant | 9H-fluoren-9-ylmethyl [2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)-2-oxoethyl]carbamate | 0.23 mmol, 120 mg | C(#N)C1=C(C=C(C=N1)NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)NC1=NC(=CC(=C1)C)C | C30H26N6O3
reactant | piperidine | 4.63 mmol, 394 mg | N1CCCCC1 | C5H11N
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | N-{6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}glycinamide | C(#N)C1=C(C=C(C=N1)NC(CN)=O)NC1=NC(=CC(=C1)C)C | C15H16N6O
